US08754079B2
II.4. 2-[trans-3-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyloxy]-4-fluoro-phenylamine
A mixture of 9.2 g racemic tert-Butyl-[trans-3-(5-fluoro-2-nitro-phenoxy)cyclohexyloxy]-dimethyl-silane and 0.92 g of Raney Nickel in 200 ml of methanol was hydrogenated at rt under 50 psi for 6 hours. The reaction mixture was filtered and the filtrate concentrated.

reactant | racemic tert-Butyl-[trans-3-(5-fluoro-2-nitro-phenoxy)cyclohexyloxy]-dimethyl-silane | 9.2 g | C(C)(C)(C)[Si](C)(C)O[C@@H]1C[C@H](CCC1)OC1=C(C=CC(=C1)F)[N+](=O)[O-] | C18H28FNO4Si
catalyst | Raney Nickel | 0.92 g | [Ni] | Ni
solvent | methanol | 200 ml | CO | CH4O
product | 2-[trans-3-(tert-Butyl-dimethyl-silanyloxy)-cyclohexyloxy]-4-fluoro-phenylamine | C(C)(C)(C)[Si](O[C@@H]1C[C@H](CCC1)OC1=C(C=CC(=C1)F)N)(C)C | C18H30FNO2Si
